US08076516B2
N-(3-(3-Bromo-2-methylphenyl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide was coupled with 4-ethynylheptan-4-ol to give 2,2,2-trifluoro-N-(3-hydroxy-3-(5-(3-hydroxy-3-propylhex-1-ynyl)-2-methylphenyl)propyl)acetamide as a yellow oil. Yield (1.11 g, 62%): 1H NMR (400 MHz, DMSO-d6) δ 9.38 (t, J=5.2 Hz, 1H), 7.41 (d, J=1.6 Hz, 1H), 7.11 (dd, J=8.0, 1.6 Hz, 1H), 7.07 (d, J=8.0 Hz, 1H), 5.26 (d, J=4.4 Hz, 1H), 5.08 (s, 1H), 4.74-4.70 (m, 1H), 3.35-3.25 (m, 2H), 2.21 (s, 3H), 1.78-1.70 (m, 2H), 1.68-1.40 (m, 8H), 0.89 (t, J=7.2 Hz, 6H)

reactant | N-(3-(3-Bromo-2-methylphenyl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide | BrC=1C(=C(C=CC1)C(CCNC(C(F)(F)F)=O)O)C | C12H13BrF3NO2
reactant | 4-ethynylheptan-4-ol | C(#C)C(CCC)(CCC)O | C9H16O
product | 2,2,2-trifluoro-N-(3-hydroxy-3-(5-(3-hydroxy-3-propylhex-1-ynyl)-2-methylphenyl)propyl)acetamide | FC(C(=O)NCCC(C1=C(C=CC(=C1)C#CC(CCC)(CCC)O)C)O)(F)F | C21H28F3NO3
